US05767116
Epichlorohydrin (2.32 g) was added dropwise to a stirred solution of 1,2-dihydroxynaphthalene (4.0 g) and potassium hydroxide (4.0 g) in water (32 ml) and the resulting mixture stirred at 60°-80° C. for 2.5 hours then poured into water (100 ml). The product was extracted into ether (6×100 ml), a small volume of methanol being added to aid solubility. The combined extracts were washed with aqueous sodium hydroxide solution (1M), then water, and dried over magnesium sulphate. The solvent was removed in vacuo to give crude 1-(naphtho[1,2-b]dioxan-2-yl)methanol (4.0 g) as a dark oil which was used without further purification.

reactant | Epichlorohydrin | 2.32 g | C(Cl)C1CO1 | C3H5ClO
reactant | 1,2-dihydroxynaphthalene | 4.0 g | OC1=C(C=CC2=CC=CC=C12)O | C10H8O2
reactant | potassium hydroxide | 4.0 g | [OH-].[K+]
solvent | water | 32 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 1-(naphtho[1,2-b]dioxan-2-yl)methanol | 4.0 g | O1C2=C(OCC1CO)C=CC1=CC=CC=C12 | C13H12O3
